US04658037
N-Benzoyl-3-(2-[2-thienyl]acetyl)-2-oxindole-1-carboxamide was prepared by reaction of 3-(2-[2-thienyl]acetyl)-2-oxindole with benzoyl isocyanate using the method of Example 1.

reactant | 3-(2-[2-thienyl]acetyl)-2-oxindole | S1C(=CC=C1)CC(=O)C1C(NC2=CC=CC=C12)=O | C14H11NO2S
reactant | benzoyl isocyanate | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
product | N-Benzoyl-3-(2-[2-thienyl]acetyl)-2-oxindole-1-carboxamide | C(C1=CC=CC=C1)(=O)NC(=O)N1C(C(C2=CC=CC=C12)C(CC=1SC=CC1)=O)=O | C22H16N2O4S
